US06124354
3-(Diethylamino)propyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutane-carbonyl chloride with 3-diethylaminopropanol at 80° C. for 5 h. The reaction mixture was filtered and chromatographed on silica gel using toluene-Et3N 95:5 as eluent. The yield was 0.8 g (45%); mp 108-111° C.; 1H NMR (D2O) δ 1.25 (t, 6H), 1.91-2.14 (m, 4H), 2.62 (m, 2H), 2.89 (m, 4H), 3.13 (q, 4H), 4.27 (t, 2H), 7.43 (m, 1H), 7.48 (m, 2H), 7.53 (m, 2H). Anal. (C18H27NO2.HCl) C, H, N.

reactant | 1-phenylcyclobutane-carbonyl chloride | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 3-diethylaminopropanol | C(C)N(CCCO)CC | C7H17NO
product | 3-(Diethylamino)propyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OCCCN(CC)CC | InChI=1S/C18H27NO2.ClH/c1-3-19(4-2)14-9-15-21-17(20)18(12-8-13-18)16-10-6-5-7-11-16;/h5-7,10-11H,3-4,8-9,12-15H2,1-2H3;1H
